US04751244
Step B: (E) [2-Methoxy-4-(2-nitro-1-propenyl)-phenoxy]acetic acid
(2-Methoxy-4-formylphenoxy)acetic acid (10.5 g, 0.05 mole), butylamine (14.6 g, 0.2 mole) and benzene were united and refluxed in a flask equipped with a Dean-Stark water separator. The mixture was refluxed for 4 hours and then the benzene removed by distillation at reduced pressure. The residue consisted of 2-methoxy-4-(butyliminomethylene)-phenoxy)acetic acid which was treated with nitro-propane (17.8 g, 0.2 mole) and acetic acid (50 ml) and heated to boiling. After standing for 30 minutes the mixture was poured into crushed ice and acidified with hydrochloric acid. The solid that separated was removed by filtration, washed with water, dried and recrystallized first from a mixture of water and isopropyl alcohol (3:1) and then from a mixture of benzene and hexane (4:3) to give product melting at 116°-117° C.

reactant | (2-Methoxy-4-formylphenoxy)acetic acid | 0.05 mole, 10.5 g | COC1=C(OCC(=O)O)C=CC(=C1)C=O | C10H10O5
reactant | butylamine | 0.2 mole, 14.6 g | C(CCC)N | C4H11N
reactant | nitro-propane | 0.2 mole, 17.8 g | [N+](=O)([O-])CCC | C3H7NO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | [2-Methoxy-4-(2-nitro-1-propenyl)-phenoxy]acetic acid | COC1=C(OCC(=O)O)C=CC(=C1)C=C(C)[N+](=O)[O-] | C12H13NO6
